US07585885B2
4-(S)-Hydroxypyrrolidine-N1,2-(R)-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
Add di-tert-butyl dicarbonate (11.2 g, 51.35 mmol) to a solution of 4-(S)-hydroxypyrrolidine-2-(R)-carboxylic acid methyl ester hydrochloride (7.17 g, 39.5 mmol) in 1,4-dioxane (80 mL). Cool in an ice bath and add N,N-diisopropylethylamine (11.7 mL, 67.2 mmol). Remove ice bath and stir 1 h at room temperature. Concentrate and dissolve in ethyl acetate, wash with 5% aqueous citric acid solution (2×100 mL), water, saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with hexanes and ethyl acetate) to give the title compound as a white solid (9.83 g, 100%).

reactant | di-tert-butyl dicarbonate | 51.35 mmol, 11.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(S)-hydroxypyrrolidine-2-(R)-carboxylic acid methyl ester hydrochloride | 39.5 mmol, 7.17 g | Cl.COC(=O)[C@@H]1NC[C@H](C1)O
reactant | N,N-diisopropylethylamine | 67.2 mmol, 11.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 4-(S)-Hydroxypyrrolidine-N1,2-(R)-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 9.83 g, 100% | COC(=O)[C@@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
